US09034895B2
2-tosyl-1H-indole
To a solution of indole (586 mg, 5.0 mmol) in 10 mL THF at −70° C. was added n-butyl lithium (3.7 mL, 5.1 mmol, 1.39 M in hexane) dropwise over 35 min keeping the temperature below −65° C. The reaction was stirred at −70° C. for 30 min, then a saturated solution of CO2 in 20 mL THF added by cannula, the dry ice bath removed and the reaction mixture bubbled with CO2 as the reaction warmed to room temperature. The reaction mixture was concentrated in vacuo then taken up in 10 mL THF and cooled to −70° C. To the solution was added tert-butyl lithium (3 mL, 5.17 mmol, 1.7 M in pentane) dropwise and stirred at −70° C. 1 h, then the reaction mixture added by cannula to a solution of p-toluenesulfonyl fluoride (1.74 g, 10 mmol) in 10 mL THF and stirred at −70° C. 2 h. The reaction was quenched with 1 mL H2O, poured into a solution of ammonium chloride (pH 5), and extracted twice with CHCl3. The combined organic extract was washed successively with a saturated solution of sodium bicarbonate and brine, dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified via silica gel chromatography using a gradient from 2 to 20% ethyl acetate in hexanes to give a final yield of 199 mg (0.73 mmol). 1H NMR (500 MHz, CDCl3, δ): 2.41 (s, 3H), 7.16-7.26 (m, 2H), 7.27-7.33 (m, 2H), 7.35 (t, J=7.3 Hz, 1H), 7.45 (d, J=8.4 Hz, 1H), 7.69 (d, J=8.1 Hz, 1H), 7.93 (d, J=8.3 Hz, 2H), 9.31 (s, 1H). 13C NMR (500 MHz, CDCl3, δ): 21.61, 108.87, 112.39, 121.52, 122.62, 125.95, 127.08, 127.35, 130.02, 134.45, 137.16, 138.53, 144.57.

reactant | indole | 5.0 mmol, 586 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | n-butyl lithium | 5.1 mmol, 1.39 M, 3.7 mL | C(CCC)[Li]
reactant | CO2 | C(=O)=O | CO2
reactant | tert-butyl lithium | 5.17 mmol, 1.7 M, 3 mL | C(C)(C)(C)[Li]
reactant | p-toluenesulfonyl fluoride | 10 mmol, 1.74 g | C1(=CC=C(C=C1)S(=O)(=O)F)C | C7H7FO2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-tosyl-1H-indole | S(=O)(=O)(C1=CC=C(C)C=C1)C=1NC2=CC=CC=C2C1 | C15H13NO2S
